US08895313B2
4-Amino-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Nitro Reduction section using 4-nitro-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (0.35 g, 0.74 mmol) and tin (II) chloride dihydrate (1.33 g, 5.91 mmol) in EtOH (7 ml) to give the title compound (0.24 g, 73%) as a pale yellow solid after work-up and flash chromatography (3:2 Hexane/EtOAc).

reactant | 4-nitro-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.74 mmol, 0.35 g | [N+](=O)([O-])C1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)C(F)(F)F | C22H14F3N3O4S
reactant | tin (II) chloride dihydrate | 5.91 mmol, 1.33 g | O.O.[Sn](Cl)Cl
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOH | 7 ml | CCO | C2H6O
product | 4-Amino-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.24 g, 73% | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)C(F)(F)F | C22H16F3N3O2S
